US04785004
(d) 2-nonylbenzyltriphenylphosphonium bromide
A mixture of 7.2 g of 2-nonylbenzyl bromide, 5.77 g of triphenylphosphine and 60 ml of toluene is heated under reflux for 4 hours, cooled and diluted with 80 ml of ether. The 2-nonylbenzyltriphenylphosphonium bromide that separates out is removed by filtration, washed with ether and dried in vacuo; m.p. 174°-176°.

reactant | 2-nonylbenzyl bromide | 7.2 g | C(CCCCCCCC)C1=C(CBr)C=CC=C1 | C16H25Br
reactant | triphenylphosphine | 5.77 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | 80 ml | CCOCC | C4H10O
product | 2-nonylbenzyltriphenylphosphonium bromide | [Br-].C(CCCCCCCC)C1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1 | InChI=1S/C34H40P.BrH/c1-2-3-4-5-6-7-11-20-30-21-18-19-22-31(30)29-35(32-23-12-8-13-24-32,33-25-14-9-15-26-33)34-27-16-10-17-28-34;/h8-10,12-19,21-28H,2-7,11,20,29H2,1H3;1H/q+1;/p-1
